US06248739B1
To a suspension of N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarbothioamide (0.20 g) from Preparation No. 43 and triphenylphosphine (0.15 g) in freshly distilled tetrahydrofuran (5 mL) is added MeOH (0.027 mL) followed by diethyl azodicarboxylate. After an initial exotherm, the reaction is stirred at room temperature for 3 h. To drive the reaction to completion, additional triphenylphosphine (0.030 g), methanol (0.010 mL), and diethyl azodicarboxylate (0.020 mL) are added. The reaction is stirred at room temperature overnight. The reaction is concentrated in vacuo. The residue is dissolved in CH2Cl2 and adsorbed onto silica. Purification by chromatography (eluent CH2Cl2 (1 L), 1% MeOH:CH2Cl2 (1 L)) affords N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarbothioamide (0.065 g) as a yellow solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-3-quinolinecarbothioamide | 0.20 g | ClC1=CC=C(CNC(=S)C=2C=NC3=CC=C(C=C3C2O)I)C=C1 | C17H12ClIN2OS
reactant | triphenylphosphine | 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.030 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.020 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methanol | 0.010 mL | CO | CH4O
solvent | MeOH | 0.027 mL | CO | CH4O
product | N-(4-chlorobenzyl)-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarbothioamide | 0.065 g | ClC1=CC=C(CNC(=S)C2=CN(C3=CC=C(C=C3C2=O)I)C)C=C1 | C18H14ClIN2OS
